US07560558B2
Compound 393: 1-(3-{7-[2-(3-Hydroxy-piperidin-1-yl)-ethoxy]-6-methoxy-quinolin-4-yloxy}-quinolin-2-yl)-ethanone
1-{3-[7-(2-Chloro-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone (46 mg) was dissolved in N,N-dimethylformamide (1 ml) to prepare a solution. Potassium carbonate (45 mg) and 3-hydroxypiperidine (33 mg) were added to the solution, and the mixture was stirred at 80° C. overnight. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (37 mg, yield 70%).

reactant | 1-{3-[7-(2-Chloro-ethoxy)-6-methoxy-quinolin-4-yloxy]-quinolin-2-yl}-ethanone | 46 mg | ClCCOC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C(C)=O)OC | C23H19ClN2O4
reactant | Potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxypiperidine | 33 mg | OC1CNCCC1 | C5H11NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(3-{7-[2-(3-Hydroxy-piperidin-1-yl)-ethoxy]-6-methoxy-quinolin-4-yloxy}-quinolin-2-yl)-ethanone | 37 mg, yield 70% | OC1CN(CCC1)CCOC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C(C)=O)OC | C28H29N3O5
